US05023336
4.0 g of ethyl 2-thiooxamate was dissolved in 70 ml of methylene chloride in a nitrogen atmosphere. To this solution, 5.2 g of ethyl iodide was added dropwise at room temperature. After completion of the dropwise addition, the mixture was reacted with stirring for an additional 5 hours to obtain ethyl ethoxycarbonylformthioimidate hydrogen iodide [H5C2O2CC(SC2H5)=NH.HI]. Then, the methylene chloride was evaporated off under reduced pressure, and the residue was mixed with 35 ml of acetic acid, 4.9 g of anhydrous sodium acetate and 5.2 g of phenacylamine hydrochloride (the same as used in Synthesis Example 2), followed by reacting the mixture at 90° to 100° C. for 3 hours.

reactant | ethyl 2-thiooxamate | 4.0 g | CCOC(=O)C(=S)N | C4H7NO2S
reactant | ethyl iodide | 5.2 g | C(C)I | C2H5I
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | ethyl ethoxycarbonylformthioimidate hydrogen iodide | I.C(C)OC(=O)C(=N)SCC | InChI=1S/C6H11NO2S.HI/c1-3-9-6(8)5(7)10-4-2;/h7H,3-4H2,1-2H3;1H
